US06638929B2
A mixture of 0.15 g (0.66 mmol) of 8-chloroimidazo[4,5-g]quinoline-7-carbonitrile, 0.1 g (0.78 mmol) of 5-amino-o-cresol and 0.075 g (0.66 mmol) of pyridine hydrochloride in 5.0 mL of 2-ethoxyethanol is heated at reflux temperature for 1 hour, cooled to room temperature, poured into a saturated solution of sodium bicarbonate and stirred for 0.5 hour. The solid is collected by filtration, washed with water, diethyl ether, methylene chloride, tetrahydrofuran and dried in vacuo to yield 0.17 g of 8-(3-hydroxy-4-methyl-phenylamino)imidazo[4,5-g]quinoline-7-carbonitrile as white solid, mp 257-260° C. (dec).

reactant | 8-chloroimidazo[4,5-g]quinoline-7-carbonitrile | 0.66 mmol, 0.15 g | ClC1=C(C=NC=2CC=3C(=CC12)N=CN3)C#N | C11H5ClN4
reactant | 5-amino-o-cresol | 0.78 mmol, 0.1 g | NC1=CC=C(C(=C1)O)C | C7H9NO
reactant | pyridine hydrochloride | 0.66 mmol, 0.075 g | Cl.N1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-ethoxyethanol | 5.0 mL | C(C)OCCO | C4H10O2
product | 8-(3-hydroxy-4-methyl-phenylamino)imidazo[4,5-g]quinoline-7-carbonitrile | 0.17 g | OC=1C=C(C=CC1C)NC1=C(C=NC=2CC=3C(=CC12)N=CN3)C#N | C18H13N5O
